US07943609B2
A pressure bottle was charged with platinum on carbon (5%, 1.16 g) followed by a solution of N-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-2-chloro-5,6-dimethyl-3-nitropyridin-4-amine (4.79 g, 12.8 mmol) dissolved in 125 mL of toluene. The reaction mixture was shaken under H2 at 48 PSI (3.3×105 Pa). After 6 hours, the reaction mixture was filtered through a pad of CELITE filter agent. The pad was rinsed with toluene and CH2Cl2. The combined filtrates were concentrated under reduced pressure to give N4-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-2-chloro-5,6-dimethylpyridine-3,4-diamine (4.39 g) as an orange oil.

reactant | N-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-2-chloro-5,6-dimethyl-3-nitropyridin-4-amine | 12.8 mmol, 4.79 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C)NC1=C(C(=NC(=C1C)C)Cl)[N+](=O)[O-] | C16H28ClN3O3Si
catalyst | platinum on carbon | 1.16 g | [Pt] | Pt
solvent | toluene | 125 mL | C1(=CC=CC=C1)C | C7H8
product | N4-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-2-chloro-5,6-dimethylpyridine-3,4-diamine | 4.39 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C)NC1=C(C(=NC(=C1C)C)Cl)N | C16H30ClN3OSi
